US07214673B2
(S)-2-Methyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Dissolve (S)-2-methyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene in ethyl acetate add hydrochloride acid until the title compound precipates as the dihydrochloride salt as a yellow solid: mp 225° C.; mass spectrum (ion spray): m/z=417 (M+1); Analysis for C25H30Cl2N4S(0.3 H2O): calcd: C, 60.67; H, 6.23; N. 11.32; found: C, 60.76; H, 6.17; N, 11.13.

reactant | (S)-2-methyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC=C3 | C25H28N4S
reactant | hydrochloride | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-Methyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | Cl.Cl.CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC=C3 | InChI=1S/C25H28N4S.2ClH/c1-18-16-21-24(26-22-10-6-7-11-23(22)27-25(21)30-18)29-15-14-28(2)20(17-29)13-12-19-8-4-3-5-9-19;;/h3-11,16,20,27H,12-15,17H2,1-2H3;2*1H/t20-;;/m0../s1
